US04617314
To a solution of 6 g of (-)-2-methyl-5-sulfamoyl-2,3-dihydrobenzofuran-7-carboxylic acid [[α]D =-17.04° (dimethylformamide, c=1)] in a mixed solvent of 55 ml of dimethylformamide and 55 ml of acetone is added 5.9 g of triethylamine and the whole is stirred. The system is cooled to 15° C. and 2.7 g of ethyl chlorocarbonate is added dropwise for 10 minutes. After stirring at room temperature for 40-45 minutes, 7.5 g of (+)-2-aminomethyl-1-ethylpyrrolidine is added. The reactant is stirred at room temperature for 20 minutes and allowed to stand overnight. Excess triethylamine and acetone are distilled off under reduced pressure and the residue obtained is poured into 500-600 ml of water while stirring. Precipitated crystals are collected by suction filtration, washed with water and dried. The crude crystals are recrystallized from ethyl acetate to give crystals of N-(1-ethyl-2-pyrrolidinylmethyl)-2-methyl-5-sulfamoyl-2,3-dihydrobenzofuran-7-carboxamide which is an optically active compound and has a m.p. 163°-164° C. and [α]D =+50.815° (dimethylformamide, c=1).

reactant | (-)-2-methyl-5-sulfamoyl-2,3-dihydrobenzofuran-7-carboxylic acid | 6 g | CC1OC2=C(C1)C=C(C=C2C(=O)O)S(N)(=O)=O | C10H11NO5S
reactant | dimethylformamide | 55 ml | CN(C=O)C | C3H7NO
reactant | ethyl chlorocarbonate | 2.7 g | C(OCC)(=O)Cl | C3H5ClO2
reactant | (+)-2-aminomethyl-1-ethylpyrrolidine | 7.5 g | NCC1N(CCC1)CC | C7H16N2
solvent | water | 500-600 ml | O | H2O
solvent | triethylamine | 5.9 g | C(C)N(CC)CC | C6H15N
solvent | acetone | 55 ml | CC(=O)C | C3H6O
product | N-(1-ethyl-2-pyrrolidinylmethyl)-2-methyl-5-sulfamoyl-2,3-dihydrobenzofuran-7-carboxamide | C(C)N1C(CCC1)CNC(=O)C1=CC(=CC=2CC(OC21)C)S(N)(=O)=O | C17H25N3O4S
